US09029360B2
6,7,8,9-Tetrahydro-5H-pyrido[2,3-d]azepine
Under a hydrogen atmosphere 0.125 g (0.49 mmol) 2-chloro-6,7,8,9-tetrahydro-5H-pyri do[2,3-d]azepine, 30 mg palladium on charcoal (10%) and 0.28 mL triethylamine in 4 mL methanol were hydrogenated at RT under 50 psi hydrogen pressure for 6 h. The catalyst was removed and the filtrate was concentrated to dryness. The residue was used without further purification. Yield: 72 mg (99% of theory). ESI-MS: m/z=149 (M+H)+; Rt(HPLC): 0.52 min (Method J).

reactant | 2-chloro-6,7,8,9-tetrahydro-5H-pyri do[2,3-d]azepine | 0.49 mmol, 0.125 g | ClC=1C=CC2=C(CCNCC2)N1 | C9H11ClN2
reactant | triethylamine | 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 30 mg | [Pd] | Pd
solvent | methanol | 4 mL | CO | CH4O
product | 6,7,8,9-Tetrahydro-5H-pyrido[2,3-d]azepine | N1=CC=CC2=C1CCNCC2 | C9H12N2
